US07074798B2
a) 7-(2-Chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione
Theophylline (510 mg), 2-chlorophenyl boronic acid (1 g), and copper (II) acetate (220 mg) were suspended in N,N-dimethylformamide (10 ml), and pyridine (1 ml) was added thereto. The reaction mixture was stirred at room temperature overnight, diluted with ethyl acetate, and washed with 30% aqueous ammonia. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue was triturated with ether to give 147 mg of the title compound.

reactant | Theophylline | 510 mg | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | 2-chlorophenyl boronic acid | 1 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (II) acetate | 220 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 7-(2-Chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 147 mg | ClC1=C(C=CC=C1)N1C=NC=2N(C(N(C(C12)=O)C)=O)C | C13H11ClN4O2
